US06444668B1
1-(2-Amino-5- chloro-phenyl)-2,2,2-trifluoro-ethanone
To a solution of N-(4-chlorophenyl)-2,2-dimethylpropanamide (6.7 g, 30 mmol) in anhydrous THF (100 mL) under nitrogen at 0° C. was added a solution of n-BuLi (2.5M, 30 mL, 70 mmol) in hexane in a dropwise fashion. After addition, the solution was kept stirring at 0° C. for 40 minutes and treated with a solution of 1-(trifluoroacetyl)imidazole (9 mL, 78 mmol) in anhydrous THF (10 mL). The reaction mixture was warmed to ambient temperature and kept for 18 hours. To the reaction solution was added a saturated aqueous ammonium chloride solution (50 mL) followed by addition of ethyl acetate (100 mL). The organic layer was separated and the solvent was removed in vacuo. The residue obtained was suspended in 3N aqueous hydrochloride solution (50 mL) and heated at reflux overnight. The reaction solution was cooled to room temperature and treated with a cold ammonium hydroxide solution to pH>8. The aqueous mixture was extracted with ethyl acetate (3×50 mL) and organic layers were washed with brine and dried (MgSO4). After removal of solvent, the residue was purified by a flash chromatography (silica gel, hexane:ethylacetate/4:1) to afford the title compound as a yellow solid (1 g, 15%): mp 93-94° C.; 1H-NMR (CDCl3) δ7.70 (m, 1H), 7.33 (dd, 1H, J=9.0, 2.3 Hz), 6.70 (d, 1H, J=9.1 Hz), 6.45 (bs, 2H); MS (ESI) m/z 222(M−H, 100%), 224(M−H, 33%).

reactant | N-(4-chlorophenyl)-2,2-dimethylpropanamide | 30 mmol, 6.7 g | ClC1=CC=C(C=C1)NC(C(C)(C)C)=O | C11H14ClNO
reactant | n-BuLi | 70 mmol, 2.5M, 30 mL | [Li]CCCC
reactant | 1-(trifluoroacetyl)imidazole | 78 mmol, 9 mL | FC(C(=O)N1C=NC=C1)(F)F | C5H3F3N2O
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | hydrochloride | 3N, 50 mL | Cl | ClH
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-Amino-5- chloro-phenyl)-2,2,2-trifluoro-ethanone | 1 g, 15% | NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)=O | C8H5ClF3NO
